US07635684B2
Benzyl 3-benzylaminopropionate
To a solution of benzyl acrylate (2 g) in ethanol (15 mL) was added benzylamine (1.75 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1-1/1) to give the title compound (2.91 g).

reactant | benzyl acrylate | 2 g | C(C=C)(=O)OCC1=CC=CC=C1 | C10H10O2
reactant | benzylamine | 1.75 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | Benzyl 3-benzylaminopropionate | 2.91 g | C(C1=CC=CC=C1)NCCC(=O)OCC1=CC=CC=C1 | C17H19NO2
